US07745438B2
(R)-4-[(1S,2S)-2-Acetylamino-1-benzyloxy-3-(3,5-difluoro-phenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Suspend (R)-4-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (4.78 g, 11.2 mmol) in dry tetrahydrofuran (115 ml) under a nitrogen atmosphere and add sodium hydride NaH (60% weight dispersion in mineral oil, 1.17 g, 29.3 mmol). Stir the resulting mixture for 30 minutes and then add sequentially sodium iodide (600 mg, 4.0 mmol) and benzyl bromide (2.7 mL, 22.7 mmol). Stir the resulting mixture for 2.5 hours and then quench by the addition of a 1:1 mixture of saturated aqueous ammonium chloride and saturated aqueous sodium chloride. Dilute the resulting mixture with ethyl acetate and discard the aqueous phase. Wash the organic phase with saturated aqueous sodium chloride, dry over magnesium sulfate, filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 40:60 ethyl acetate:hexanes) to give the desired compound as a white foam (4.96 g, 85%).

reactant | (R)-4-[(1S,2S)-2-acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 11.2 mmol, 4.78 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)(C)C | C21H30F2N2O5
reactant | sodium iodide | 4.0 mmol, 600 mg | [I-].[Na+]
reactant | benzyl bromide | 22.7 mmol, 2.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
product | (R)-4-[(1S,2S)-2-Acetylamino-1-benzyloxy-3-(3,5-difluoro-phenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 4.96 g, 85% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)OCC1=CC=CC=C1)(C)C | C28H36F2N2O5
